* source KC_INPUT_VAS_SPICE
R_R1         N00464 N00446  1k TC=0,0 
R_R2         N00472 N00446  1k TC=0,0 
R_R3         N00286 N00484  10 TC=0,0 
R_R4         N00286 N00488  10 TC=0,0 
R_R5         N00274 0  10k TC=0,0 
R_R6         N00282 N00321  150 TC=0,0 
Q_Q1         N00286 N00274 N00282 Q2SC1815
Q_Q2         N00274 N00282 N00321 Q2SC1815
V_V1         0 N00321 DC 25v  
V_V2         N00446 0 DC 25v  
X_U1         N00464 N00598 N00484 N00488 0 N00472 MAT02 
V_V3         N00598 0  AC 0
+SIN 0 0.01 1K 0 0 0
Q_Q3         N00446 N00472 N01376 Q2SC1815
Q_Q4         N00446 N00464 N01372 Q2SC1815
I_I1         N01376 0 DC 0.001Adc  
I_I2         N01372 0 DC 0.001Adc  
